.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical

* PEX produced on Sun Aug 23 04:17:01 AM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from ota.ext - technology: gf180mcuD

.option scale=5n

.subckt ota IBIAS OUT INN INP VSS VDD
X0 VSS IBIAS IBIAS VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X1 a_n1462_8060# a_n1462_8060# VDD VDD pfet_03v3 ad=16.8n pd=0.412m as=36n ps=0.84m w=300 l=160
X2 VDD a_n1462_8060# a_n1462_8060# VDD pfet_03v3 ad=16.8n pd=0.412m as=16.8n ps=0.412m w=300 l=160
X3 VSS IBIAS a_n1422_429# VSS nfet_03v3 ad=24n pd=0.64m as=11.2n ps=0.312m w=200 l=200
X4 a_n1462_8060# a_n1462_8060# VDD VDD pfet_03v3 ad=16.8n pd=0.412m as=16.8n ps=0.412m w=300 l=160
X5 OUT a_n1462_8060# VDD VDD pfet_03v3 ad=16.8n pd=0.412m as=16.8n ps=0.412m w=300 l=160
X6 a_n1422_429# INN OUT VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=120
X7 VDD a_n1462_8060# OUT VDD pfet_03v3 ad=16.8n pd=0.412m as=16.8n ps=0.412m w=300 l=160
X8 a_n1422_429# IBIAS VSS VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X9 OUT INN a_n1422_429# VSS nfet_03v3 ad=11.2n pd=0.312m as=24n ps=0.64m w=200 l=120
X10 a_n1422_429# INP a_n1462_8060# VSS nfet_03v3 ad=24n pd=0.64m as=11.2n ps=0.312m w=200 l=120
X11 VDD a_n1462_8060# a_n1462_8060# VDD pfet_03v3 ad=36n pd=0.84m as=16.8n ps=0.412m w=300 l=160
X12 IBIAS IBIAS VSS VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X13 a_n1462_8060# INP a_n1422_429# VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=120
X14 OUT INN a_n1422_429# VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=120
X15 OUT a_n1462_8060# VDD VDD pfet_03v3 ad=16.8n pd=0.412m as=36n ps=0.84m w=300 l=160
X16 a_n1422_429# INN OUT VSS nfet_03v3 ad=24n pd=0.64m as=11.2n ps=0.312m w=200 l=120
X17 VSS IBIAS a_n1422_429# VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X18 a_n1422_429# INP a_n1462_8060# VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=120
X19 VSS IBIAS IBIAS VSS nfet_03v3 ad=24n pd=0.64m as=11.2n ps=0.312m w=200 l=200
X20 VDD a_n1462_8060# OUT VDD pfet_03v3 ad=36n pd=0.84m as=16.8n ps=0.412m w=300 l=160
X21 a_n1462_8060# INP a_n1422_429# VSS nfet_03v3 ad=11.2n pd=0.312m as=24n ps=0.64m w=200 l=120
X22 IBIAS IBIAS VSS VSS nfet_03v3 ad=11.2n pd=0.312m as=24n ps=0.64m w=200 l=200
X23 a_n1422_429# IBIAS VSS VSS nfet_03v3 ad=11.2n pd=0.312m as=24n ps=0.64m w=200 l=200
C0 OUT a_n1462_8060# 0.64326f
C1 a_n1462_8060# INP 0.25825f
C2 a_n1462_8060# a_n1422_429# 1.58029f
C3 VDD a_n1462_8060# 8.39542f
C4 OUT INN 0.26424f
C5 INN a_n1422_429# 0.24925f
C6 OUT a_n1422_429# 1.34454f
C7 INP a_n1422_429# 0.33602f
C8 OUT VDD 3.14794f
C9 IBIAS a_n1422_429# 0.38937f
C10 IBIAS VSS 9.78926f
C11 INN VSS 1.9486f
C12 INP VSS 1.88947f
C13 OUT VSS 2.37172f
C14 VDD VSS 19.9961f
C15 a_n1422_429# VSS 6.16706f ; **FLOATING
C16 a_n1462_8060# VSS 2.21703f ; **FLOATING
C_EXT_LOAD OUT VSS 5p
.ends

Vsupply0 VDD 0 3.3
Vsupply1 VSS 0 0.0
Vsrc0 IBIAS 0 DC 0.85
Vsrc1 INN 0 DC 1.65
Vsrc2 INP 0 DC 1.65 AC 1
Xdut IBIAS OUT INN INP VSS VDD ota

.control
ac dec 20 10.0 10000000000.0
wrdata ac.dat v(IBIAS) v(OUT) v(INN) v(INP) v(VSS) v(VDD)
.endc
.end
