.lib "/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice" typical
.subckt strongarm_comparator VDD VSS INP INN CLK OUTP OUTN
XM1 TAIL CLK  VSS VSS nfet_03v3 L=0.6u W=4.6u nf=4
XM2 D1   INP  TAIL VSS nfet_03v3 L=0.6u W=3.45u nf=3
XM3 D2   INN  TAIL VSS nfet_03v3 L=0.6u W=3.45u nf=3
XM4 OUTN OUTP D1   VSS nfet_03v3 L=0.6u W=5.75u nf=5
XM5 OUTP OUTN D2   VSS nfet_03v3 L=0.6u W=5.75u nf=5
XM6 OUTN OUTP VDD  VDD pfet_03v3 L=0.6u W=3.45u nf=3
XM7 OUTP OUTN VDD  VDD pfet_03v3 L=0.6u W=3.45u nf=3
XM8 OUTN CLK  VDD  VDD pfet_03v3 L=0.6u W=3.45u nf=3
XM9 OUTP CLK  VDD  VDD pfet_03v3 L=0.6u W=3.45u nf=3
XM10 D1  CLK  VDD  VDD pfet_03v3 L=0.6u W=3.45u nf=3
XM11 D2  CLK  VDD  VDD pfet_03v3 L=0.6u W=3.45u nf=3
.ends strongarm_comparator